US05137886
(iii) 2-(pyrrole-1-sulphonyl)pyrid-6-one
The organic washings were combined, dried over anhydrous magnesium sulphate and the solvent evaporated under reduced pressure to give a crude product identified as 2-(pyrrole-1-sulphonyl)-6-benzyloxypyridine. The crude product was treated with dichloromethane (5 cm3) and trifluoroacetic acid (5 cm3) for 24 hours at the ambient temperature. Toluene (10 cm3) was added and the reaction mixture evaporated to dryness under reduced pressure. The crude product was purified by silica chromatography eluting with 30% ethyl acetate in hexane.

reactant | 2-(pyrrole-1-sulphonyl)-6-benzyloxypyridine | N1(C=CC=C1)S(=O)(=O)C1=NC(=CC=C1)OCC1=CC=CC=C1 | C16H14N2O3S
reactant | dichloromethane | 5 cm3 | ClCCl | CH2Cl2
reactant | trifluoroacetic acid | 5 cm3 | FC(C(=O)O)(F)F | C2HF3O2
solvent | Toluene | 10 cm3 | C1(=CC=CC=C1)C | C7H8
product | 2-(pyrrole-1-sulphonyl)pyrid-6-one | N1(C=CC=C1)S(=O)(=O)C=1NC(C=CC1)=O | C9H8N2O3S
